US06596742B1
4-(3,3,5,5-Tetramethylcyclohexyloxy)phenylhydrazine Hydrochloride (Intermediate)
A stirred mixture, cooled to −10° C., of 3.7 g of 4-(3,3,5,5-tetramethylcyclohexyloxy)aniline, 7.5 ml of water and 15.5 ml of conc. HCl is mixed dropwise with a solution of 1.13 g of sodium nitrite in 7.5 ml of water, and the mixture is stirred at −10° C. for 45 min and subsequently added dropwise to a suspension of 9.3 g of tin dichloride dihydrate in 7 ml of conc. HCl. The precipitate is filtered off with suction, washed with water, suspended under nitrogen in 200 ml of water and decomposed at 10-15° C. using 100 ml of 30% strength aqueous sodium hydroxide solution. The precipitate that is then formed is filtered off with suction, washed with water, taken up in 200 ml of ether and dried with sodium sulfate. The product is precipitated using ethereal HCl, filtered off with suction and dried under reduced pressure.

reactant | 4-(3,3,5,5-tetramethylcyclohexyloxy)aniline | 3.7 g | CC1(CC(CC(C1)(C)C)OC1=CC=C(N)C=C1)C | C16H25NO
reactant | sodium nitrite | 1.13 g | N(=O)[O-].[Na+]
reactant | tin dichloride dihydrate | 9.3 g | O.O.[Sn](Cl)Cl
solvent | water | 7.5 ml | O | H2O
solvent | HCl | 7 ml | Cl | ClH
solvent | HCl | 15.5 ml | Cl | ClH
solvent | water | 7.5 ml | O | H2O
product | 4-(3,3,5,5-Tetramethylcyclohexyloxy)phenylhydrazine Hydrochloride | Cl.CC1(CC(CC(C1)(C)C)OC1=CC=C(C=C1)NN)C | InChI=1S/C16H26N2O.ClH/c1-15(2)9-14(10-16(3,4)11-15)19-13-7-5-12(18-17)6-8-13;/h5-8,14,18H,9-11,17H2,1-4H3;1H
